* Z:\mnt\design.r\spice\examples\1965-1.8.asc
C1 OUT 0 10µ
V1 IN 0 pwl(0 0 1 5)
Rload OUT 0 1.8
XU1 IN IN 0 OUT OUT LT1965-x.x R=5.8K
.tran 1 startup
.lib LT1965.lib
.backanno
.end
